US07282512B2
To a solution of 240 mg (0.51 mmol) of (1-benzylcyclobutyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate in 2 mL of dichloromethane at 0° C. was added 1 mg of 2,2,6,6-tetramethyl-1-piperidinyloxy free radical and 5 mg of potassium bromide. A solution of 30 mg of sodium bicarbonate in 2.5 mL of household bleach was added and the reaction stirred for 30 min. The reaction was extracted with ethyl acetate and and washed 0.5 N hydrochloric acid. The organic phase was washed with saturated sodium bicarbonate, washed with brine, dried over magnesium sulfate, and concentrated under vacuum. The product was purified by silica chromatography eluting with 2.5:7.5 acetone:hexanes to afford 128 mg (53%) of (1-benzylcyclobutyl)methyl(1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate. M.P.=96-98° C. Elemental analysis: Theory; C=72.39%, H=7.81%, N=6.03%. Found; C=72.14%, H=7.81%, N=5.99%. 1H NMR (300 MHz, 80° C., DMSO-d6) δ 8.83 (d, J=8 Hz, 1H), 7.19-7.38 (m, 11H), 5.02 (qnt, J=7 Hz, 1H), 4.85 (m, 1H), 3.83 (s, 2H), 2.79 (s, 1H), 1.67-1.89 (m, 7H), 1.51-1.60 (m, 1H), 1.47 (d, J=7 Hz, 3H), 1.25-1.40 (m, 4H), 0.86 (t, J=7 Hz, 3H). ES-LCMS m/z 487 (M+Na). HRMS C28H36N2O4 m/z 487.2573 (M+Na)Cal; 487.2552 (M+Na)Obs.

reactant | (1-benzylcyclobutyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | 0.51 mmol, 240 mg | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OCC1(CCC1)CC1=CC=CC=C1)=O | C28H38N2O4
reactant | potassium bromide | 5 mg | [Br-].[K+]
reactant | sodium bicarbonate | 30 mg | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (1-benzylcyclobutyl)methyl(1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | 128 mg, 53% | O=C(C(=O)[C@H](CCCC)NC(OCC1(CCC1)CC1=CC=CC=C1)=O)N[C@H](C)C1=CC=CC=C1 | C28H36N2O4
